US08530468B2
5-(8-(1H-pyrazol-3-yl)isoquinolin-3-ylamino)pyrazine-2-carbonitrile (AA-019)
A mixture of 5-(8-bromoisoquinolin-3-ylamino)pyrazine-2-carbonitrile (65 mg, 0.20 mmol), 1H-pyrazol-3-yl boronic acid (33 mg, 0.30 mmol) and aqueous sodium carbonate (0.5M, 0.60 mL, 0.30 mmol) in DMF (2 mL) was degassed for 15 minutes before the addition of tetrakis(triphenylphosphine)palladium(0) (12 mg, 0.10 mmol). The mixture was further degassed for 5 minutes and then heated to 140° C. for 20 minutes in a microwave reactor. The cooled mixture was partitioned between ethyl acetate and water. The aqueous layer was further extracted with ethyl acetate and the combined organics were washed with water and brine, dried (Na2SO4), and passed sequentially through two PS-Thiol cartridges. The eluent was concentrated to a yellow solid which was dissolved in methanol and purified by SPE on a MP-TsOH cartridge, eluting with 2 M ammonia in methanol. Concentration of the eluent gave the required product as a light yellow solid (18 mg, 0.06 mmol, 29%). 1H NMR (DMSO, 400 MHz) δ 13.25 (br s, 1H), 11.10 (br s, 1H), 10.00 (s, 1H), 8.84 (s, 1H), 8.72 (s, 1H), 8.55 (s, 1H), 7.80-8.00 (m, 2H), 7.70-7.80 (m, 2H), 6.80 (s, 1H). LCMS (2) Rt=2.46 min, m/z (ESI+) 314 (MH+).

reactant | 5-(8-bromoisoquinolin-3-ylamino)pyrazine-2-carbonitrile | 0.20 mmol, 65 mg | BrC=1C=CC=C2C=C(N=CC12)NC=1N=CC(=NC1)C#N | C14H8BrN5
reactant | 1H-pyrazol-3-yl boronic acid | 0.30 mmol, 33 mg | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | sodium carbonate | 0.30 mmol, 0.5M, 0.60 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.10 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(8-(1H-pyrazol-3-yl)isoquinolin-3-ylamino)pyrazine-2-carbonitrile | 0.06 mmol, 18 mg, 29% | N1N=C(C=C1)C=1C=CC=C2C=C(N=CC12)NC=1N=CC(=NC1)C#N | C17H11N7
